US05489600
Dissolve lauric acid (0.77 g) in methylene chloride (50 mL) and cool to 0° C. Add oxalyl chloride (0.37 mL) and dimethylformamide (3 drops). Allow to warm to room temperature and stir for 1 hour. Add this solution to a mixture off 4-(O-tert-butyldimethylsilyloxy)piperidine and triethylamine (1 mL) in methylene chloride (25 mL). Heat at reflux overnight. Dilute with methylene chloride (50 mL) and separate the organic phase. Wash twice with 10% sodium hydroxide, once with water, and once with brine. Dry (Na2SO4) and evaporate the solvent in vacuo. Dissolve the residue in hexane (100 mL) and wash twice with 10% hydrochloric acid (50 mL), once with saturated sodium hydrogen carbonate and once with brine. Dry (Na2SO4) and evaporate the solvent in vacuo to give 1-oxododecyl-4-(O-tert-butyldimethylsilyloxy)piperidine.

reactant | lauric acid | 0.77 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | oxalyl chloride | 0.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(O-tert-butyldimethylsilyloxy)piperidine | [Si](C)(C)(C(C)(C)C)OC1CCNCC1 | C11H25NOSi
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-oxododecyl-4-(O-tert-butyldimethylsilyloxy)piperidine | O=C(CCCCCCCCCCC)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C23H47NO2Si
